US07576215B2
[4-{3-[(4-ISOPROPYLBENZYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)-METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 1-Bromomethyl-4-isopropylbenzene following the procedure of Example 478: MS (ESI) m/z 526;

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 1-Bromomethyl-4-isopropylbenzene | BrCC1=CC=C(C=C1)C(C)C | C10H13Br
product | [4-{3-[(4-ISOPROPYLBENZYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)-METHANONE | C(C)(C)C1=CC=C(COC=2C=C(C=CC2)C2=C(C=NC3=C(C=CC=C23)C(F)(F)F)C(=O)C2=CC=CC=C2)C=C1 | C33H26F3NO2
